US04285942
1-(Diisopropylamino-propoxyimino)cyclododecane
Starting from 19.7 g. (0.1 moles) of cyclododecanone oxime, 2.4 g. (0.1 moles) of sodium hydride and 19.55 g. (0.11 moles) of 1-diisopropylamino-3-chloropropane the title product is prepared as in Example 1. Yield: 24.2 g. (71.6%). Hydrogen fumarate, m.p.: 119°-121° C.

reactant | cyclododecanone oxime | 0.1 moles | C1(CCCCCCCCCCC1)=NO | C12H23NO
reactant | sodium hydride | 0.1 moles | [H-].[Na+]
reactant | 1-diisopropylamino-3-chloropropane | 0.11 moles | C(C)(C)N(CCCCl)C(C)C | C9H20ClN
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Diisopropylamino-propoxyimino)cyclododecane | C(C)(C)N(C(C)C)CCCON=C1CCCCCCCCCCC1 | C21H42N2O
